US06326359B1
2-[({9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)amino]-N,N-diisopropylacetamide
The title compound was prepared by a similar method to example 40 using {9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate (preparation 25) (374 mg, 0.66 mmol), 2-amino-N,N-diisopropylacetamide (520 mg, 3.3 mmol) (preparation 22) and N-ethyl-N-isopropyl-2-propanamine (170 mg, 1.32 mmol). The compound was purified by column chromatography on silica gel eluting with a solvent gradient of dichloromethane:methanol:ammonia (95:5:0.5) increasing in polarity to (90:10:1). The solvent was removed under reduced pressure to give a residue which was triturated with diethyl ether to give the title compound (47 mg) as a solid. MS: 632 (MH+).

reactant | {9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate | 0.66 mmol, 374 mg | CS(=O)(=O)OCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H31N5O7S
reactant | 2-amino-N,N-diisopropylacetamide | 3.3 mmol, 520 mg | NCC(=O)N(C(C)C)C(C)C | C8H18N2O
reactant | N-ethyl-N-isopropyl-2-propanamine | 1.32 mmol, 170 mg | C(C)N(C(C)C)C(C)C | C8H19N
product | 2-[({9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)amino]-N,N-diisopropylacetamide | 47 mg | O[C@H]1[C@@H](O[C@@H]([C@H]1O)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CNCC(=O)N(C(C)C)C(C)C | C34H45N7O5
